* source 14-2
V_V1         N00926 0  AC 1
+SIN 0 1 1k 0 0 0
R_R1         0 N00327  20k TC=0,0 
C_C1         0 N00327  10n  TC=0,0 
L_L1         0 N00327  68mH  
R_R2         N00926 N00327  5k TC=0,0 
