* source LAB14-1
V_V1         N00135 0  AC 1
+SIN 0 1 1k 0 0 0
C_C1         N00135 N00142  10n  TC=0,0 
L_L1         N00142 N00146  68mH  
R_R1         0 N00146  5.1k TC=0,0 
