* source LAB5
V_V1         N00115 0 10Vdc
R_R1         N00115 N00122  3k TC=0,0 
R_R2         0 N00122  9k TC=0,0 
R_R3         N00122 N00136  4.5k TC=0,0 
R_R4         0 N00136  4.5k TC=0,0 
