* source LAB11-2
L_L1         0 N00501  68mh  
V_V1         N00348 0  
+PULSE 2V -2V 0 0 0 .5ms 1ms
C_C1         0 N00501  .01uF  TC=0,0 
R_R1         N00501 N00348  560 TC=0,0 
