* source LAB8-2
V_V3         N01479 0 15Vdc
X_U1         N01573 N01623 N01469 N01649 N01623 uA741
V_V2         N01679 0 15Vdc
R_R4         N01649 N01679  56k TC=0,0 
V_V1         N01573 0  AC 0
+SIN 0 .3V 1kHz 0 0 0
R_R2         N01469 N01479  56k TC=0,0 
R_R1         0 N01623  10k TC=0,0 
