* source LAB6-5MAX
V_V1         N00175 0 10Vdc
R_R1         N00135 N00175  2.7k TC=0,0 
R_R2         N00141 N00175  3.3k TC=0,0 
R_R3         N00135 N00141  2.7k TC=0,0 
R_R4         0 N00135  4.7k TC=0,0 
R_R5         0 N00141  1k TC=0,0 
