* source LAB12
V_V1         N00177 0  AC 0
+SIN 0 1 500 0 0 0
L_L1         N00177 N00184  68mH  
R_R1         N00184 N00188  1k TC=0,0 
C_C1         N00263 N00188  100n  TC=0,0 
R_R2         0 N00263  680 TC=0,0 
