* source LAB06
V_V1         N00161 0 10Vdc
R_R1         N00161 N00168  1k TC=0,0 
R_R2         0 N00175  2.7k TC=0,0 
R_R3         N00175 N00168  1k TC=0,0 
R_R4         N00168 N01058  680 TC=0,0 
R_R5         N00175 N01067  470 TC=0,0 
R_R6         N01067 N01058  3.3k TC=0,0 
