* source LAB7
V_V1         N00216 0 10Vdc
R_RL         0 N00234  2.7k TC=0,0 
R_R3         0 N00230  1.5k TC=0,0 
R_R1         N00216 N00230  1.5k TC=0,0 
R_R2         N00230 N00234  1.95k TC=0,0 
