* source LAB8IN
X_U1         0 N00894 N00962 N01030 N01128 uA741
V_V1         N00859 0  AC 0
+SIN 0 .3V 1kHz 0 0 0
R_R1         N00859 N00894  10k TC=0,0 
R_R2         N01030 N01080  56k TC=0,0 
R_R3         N00894 N01128  100k TC=0,0 
R_R4         N00962 N00969  56k TC=0,0 
V_V2         N00969 0 15Vdc
V_V3         N01080 0 -15Vdc
